US05866513
A solution of 10.30 g (43.3 mmol) of 4-hydroxy-4-(2,3,4-trimethoxyphenyl)-butene and 15 mL (107 mmol) of triethylamine in 100 mL of dichloromethane was cooled in an ice bath and 3.7 mL (47.6 mmol) of methanesulfonyl chloride was added dropwise over 5 min. The ice bath was allowed to expire and the mixture was stirred overnight. The mixture was diluted with 300 mL of ether, washed with two 100 mL portions of 5% aqueous HCl and 100 mL of saturated aqueous NaHCO3, dried over MgSO4 and the solvent removed in vacuo to leave 8.14 g of crude 1-(2,3,4-trimethoxyphenyl)-1,3-butadiene as an orange oil.

reactant | 4-hydroxy-4-(2,3,4-trimethoxyphenyl)-butene | 43.3 mmol, 10.30 g | OC(CC=C)C1=C(C(=C(C=C1)OC)OC)OC | C13H18O4
reactant | triethylamine | 107 mmol, 15 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 47.6 mmol, 3.7 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | ether | 300 mL | CCOCC | C4H10O
product | 1-(2,3,4-trimethoxyphenyl)-1,3-butadiene | 8.14 g | COC1=C(C=CC(=C1OC)OC)C=CC=C | C13H16O3
